US07994203B2
Step 3: 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-7-(1-methylene-butyl)-pyrazolo[5,1-b]oxazole:
To a suspension of methyltriphenylphosphonium bromide (0.814 g, 2.278 mmol) in THF (8 ml) is added 1.0M NaHMDS (in THF) (2.278 ml, 2.278 mmol) generating a yellow reaction mixture. After stirring at RT for 10 minutes, 1-[3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yl]-butan-1-one (0.400 g, 1.139 mmol) is added and the reaction mixture is stirred at RT for 16 hours: a tan solution turning brown O/N. The reaction is quenched with ammonium chloride (sat. aq. 2 ml). The reaction mixture is partitioned between EtOAc (50 ml) and H2O (50 ml) and extracted with EtOAc (3×20 ml). The combined organic extracts are washed with brine (1×50 ml), dried Na2SO4, filtered and concentrated in vacuo. The resulting residue is purified via Flashmaster SiO2 150 ml/50 g column eluting with 12:1 Iso-hexane/EtOAc to yield the title compound as a white crystalline solid; MS: 349.08 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 7.77 (1H, d), 7.59 (1H, d), 7.51 (1H, dd), 4.94 (1H, d), 4.85 (1H, d), 2.30 (3H, t), 2.18 (3H, s), 2.14 (3H, s), 1.35 (2H, m), 0.79 (3H, t).

reactant | NaHMDS | 2.278 mmol, 1.0M, 2.278 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-[3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yl]-butan-1-one | 1.139 mmol, 0.400 g | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)C(CCC)=O | C17H16Cl2N2O2
catalyst | methyltriphenylphosphonium bromide | 2.278 mmol, 0.814 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-7-(1-methylene-butyl)-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)C(CCC)=C | C18H18Cl2N2O
